US07671068B2
21. 4-((4aR,10bS)-9-Ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo [c][1,6]naphthyridin-6-yl)-N-isopropyl-N—[(S)-1-methyl-2-(3-phenyl-propoxy)-ethyl]-benzamide
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid and N-isopropyl-N—[(S)-1-methyl-2-(3-phenyl-propoxy)-ethyl]-amine as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | N-isopropyl-N—[(S)-1-methyl-2-(3-phenyl-propoxy)-ethyl]-amine | C(C)(C)N[C@H](COCCCC1=CC=CC=C1)C | C15H25NO
product | 4-((4aR,10bS)-9-Ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo [c][1,6]naphthyridin-6-yl)-N-isopropyl-N—[(S)-1-methyl-2-(3-phenyl-propoxy)-ethyl]-benzamide | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)N([C@H](COCCCC3=CC=CC=C3)C)C(C)C)C=C2)C=C1OC | C38H49N3O4
